US07491713B2
Step E: Benzyl 1-(cyclopropylmethyl)-2-oxo-5-phenyl-1,2-dihydropyridin-3-ylcarbamate
Tetrakis(triphenylphosphine)palladium(0) (0.132 mg, 0.11 mmol) and benzyl 1-(cyclopropylmethyl)-5-iodo-2-oxo-1,2-dihydropyridin-3-ylcarbamate (0.097 mg, 0.229 mmol) in tetrahydrofuran (1 mL) were stirred at room temperature for 30 minutes. A solution of phenylboronic acid in ethanol (1 mL) was then added to the reaction mixture. After 1 h, a 2 M solution of sodium carbonate (1 mL) was added and the reaction was heated to reflux. After 3 h, the mixture was allowed to cool to ambient temperature and extracted with ethyl acetate and water. The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by chromatography (silica gel, 5% to 30% ethyl acetate in hexanes gradient elution) gave the title compound (0.061 g). MS 375 (M+1)

reactant | benzyl 1-(cyclopropylmethyl)-5-iodo-2-oxo-1,2-dihydropyridin-3-ylcarbamate | 0.229 mmol, 0.097 mg | C1(CC1)CN1C(C(=CC(=C1)I)NC(OCC1=CC=CC=C1)=O)=O | C17H17IN2O3
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.11 mmol, 0.132 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Benzyl 1-(cyclopropylmethyl)-2-oxo-5-phenyl-1,2-dihydropyridin-3-ylcarbamate | 0.061 g | C1(CC1)CN1C(C(=CC(=C1)C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O)=O | C23H22N2O3
